US05532228
6. Cylopropylmethoxymethylcarbonylmethylenetriphenyl phosphorane
A solution of 5.58 g of sodium in 25.0 g of cyclopropylmethanol and 200 ml of toluene is reacted with 30.0 g of chloromethylcarbonylmethylenetriphenyl phosphorane analogously to the production of isopropoxymethylcarbonylmethylenetriphenyl phosphorane. The title compound is obtained as solid with a melting point of 121° C.

reactant | sodium | 5.58 g | [Na] | Na
reactant | chloromethylcarbonylmethylenetriphenyl phosphorane | 30.0 g | ClCC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H18ClOP
reactant | isopropoxymethylcarbonylmethylenetriphenyl phosphorane | C(C)(C)OCC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
solvent | cyclopropylmethanol | 25.0 g | C1(CC1)CO | C4H8O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Cylopropylmethoxymethylcarbonylmethylenetriphenyl phosphorane | C1(CC1)COCC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H25O2P
